US06358992B1
To a solution of 6-tert-butoxycarbonylamino-2-(2-chlorobenzyl)-3-isobutyryl-2-propylindole (110 mg) in ethyl acetate (1 ml) was added 4N hydrogen chloride in ethyl acetate at 20° C., and the mixture was stirred at the same temperature for 4 hours. The precipitates were collected by filtration and washed with ethyl acetate to give 6-amino-1-(2-chlorobenzyl)-3-isobutyryl-2-propylindole hydrochloride (50 mg) as powder.

reactant | 6-tert-butoxycarbonylamino-2-(2-chlorobenzyl)-3-isobutyryl-2-propylindole | 110 mg | C(C)(C)(C)OC(=O)NC=1C=CC2=C(C(N=C2C1)(CCC)CC1=C(C=CC=C1)Cl)C(C(C)C)=O | C27H33ClN2O3
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
product | 6-amino-1-(2-chlorobenzyl)-3-isobutyryl-2-propylindole hydrochloride | 50 mg | Cl.NC1=CC=C2C(=C(N(C2=C1)CC1=C(C=CC=C1)Cl)CCC)C(C(C)C)=O | InChI=1S/C22H25ClN2O.ClH/c1-4-7-19-21(22(26)14(2)3)17-11-10-16(24)12-20(17)25(19)13-15-8-5-6-9-18(15)23;/h5-6,8-12,14H,4,7,13,24H2,1-3H3;1H
